US05780642
Triethylamine (0.46 g) was added to a stirred suspension of 3-[4-(2-aminoethyl)imidazol-1-yl]-N-[1-(4-chlorophenyl)-1-methylethyl]propylamine trihydrochloride, (0.65 g) in dichloromethane (25 ml) and the resulting solution cooled to 0° C. A solution of benzoyl chloride (0.21 g) in dichloromethane (10 ml) was added over 20 minutes at 0°-5° C. with stirring. The mixture was stirred at ambient temperature for 2.5 hours. The solution was washed with sodium bicarbonate solution, then water, then dried, filtered and evaporated to give N-[2-(1-(3-[1-(4-chlorophenyl)-1-methylethylamino]propyl}imidazol-4-yl)ethyl]benzamide as an oil.

reactant | Triethylamine | 0.46 g | C(C)N(CC)CC | C6H15N
reactant | 3-[4-(2-aminoethyl)imidazol-1-yl]-N-[1-(4-chlorophenyl)-1-methylethyl]propylamine trihydrochloride | 0.65 g | Cl.Cl.Cl.NCCC=1N=CN(C1)CCCNC(C)(C)C1=CC=C(C=C1)Cl
reactant | benzoyl chloride | 0.21 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[2-(1-(3-[1-(4-chlorophenyl)-1-methylethylamino]propyl}imidazol-4-yl)ethyl]benzamide | ClC1=CC=C(C=C1)C(C)(C)NCCCN1C=NC(=C1)CCNC(C1=CC=CC=C1)=O | C24H29ClN4O
